US06960614B2
To a vigorously stirring suspension of 1,2,4-butanetriol (5.8 g, 54.6 mmol) in dichloromethane (20 mL) was added 2,2-dimethoxypropane (6.8 mL, 54.6 mmol) and catalytic p-toluenesulfonic acid. After 5 minutes, the solution became homogenous and was allowed to stir for an additional 30 minutes. The reaction mixture was then concentrated in vacuo to afford (2,2-Dimethyl-[1,3]dioxolan-4-yl)-ethanol (7.72 g, 96.7%). To a stirring solution of (2,2-Dimethyl-[1,3]dioxolan-4-yl)-ethanol (6.95 g, 47.5 mmol), triphenylphosphine (12.5 g, 47.5 mmol) and N-hydroxyphthalimide in freshly distilled tetrahydrofuran (200 mL) at 0° C. was slowly added (over 20 minutes) diethylazodicarboxylate. The dark red solution was allowed to stir for 2 hours at 0° C. and then allowed to warm to room temperature while stirring for 17 hours. The yellow solution was concentrated in vacuo and dissolved in chloroform (100 mL). The solids were filtered and filtrate concentrated. This filtration was repeated twice. The remaining yellow oil was purified on silica gel eluting with hexanes-ethyl acetate (4:1) to afford 2-[2-(2,2-Dimethyl-[1,3]dioxolan-4-yl)-ethoxy]-isoindole-1,3-dione (8.1 g, 58.7%). To a stirring solution of 2-[2-(2,2-Dimethyl-[1,3]dioxolan-4-yl)-ethoxy]-isoindole-1,3-dione (0.86 g, 2.95 mmol) in dichloromethane (10 mL) at 0° C. was added methylhydrazine (0.16 mL, 2.95 mmol). The resultant solution was allowed to warm to room temperature and stirred for 3 days. The resulting suspension was diluted with diethyl ether (20 mL) and filtered. The filtrate concentrated in vacuo to afford O-(2,2-dimethyl-[1,3]dioxolan-4-ylethyl)-hydroxylamine (0.36 g, 75.3%): 1H NMR (400 MHz; CDCl3) δ 4.18 (quint, 1H, J=5.9), 4.07 (dd, 1H, J=5.9, 7.8), 3.86 (t, 2H, J=6.2), 3.56 (t, 1H, J=7.6), 1.89 (m, 2H), 1.36 (s, 3H), 1.20 (s, 3H); MS(APCI+)=162.

reactant | 2-[2-(2,2-Dimethyl-[1,3]dioxolan-4-yl)-ethoxy]-isoindole-1,3-dione | 2.95 mmol, 0.86 g | CC1(OCC(O1)CCON1C(C2=CC=CC=C2C1=O)=O)C | C15H17NO5
reactant | methylhydrazine | 2.95 mmol, 0.16 mL | CNN | CH6N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | O-(2,2-dimethyl-[1,3]dioxolan-4-ylethyl)-hydroxylamine | 0.36 g, 75.3% | CC1(OCC(O1)CCON)C | C7H15NO3
